datasets/10k__Tet_Int.csv
SMILES Labelled
"[H][S+:10](C([H])C([H])C(CC)[S]1)[C:20]1([O:21]C)[O][H].[Cl-]>>[Cl-].[H][S:10]C([H])C([H])C(CC)[S][C:20]([O][H])=[O+:21]C 21=20;20,10=10"
"[O-:21][C:20]1(OCC)[O+:10]([K])C(C)C(C)=C1O>>[O:10]([K])C(C)/C(C)=C([C:20](OCC)=[O:21])/O 21=20;20,10=10"
"CC[NH+:21]=[C:20]2[NH][CH]([H])[CH](C)C([H])[NH]2.C9=CC=CC=C9[O:10][H].[Cl-]>>[Cl-].C9=CC=CC=C9[O+:10]([H])[C:20]1([NH:21]CC)[NH][CH]([H])C(C)[CH]([H])[NH]1 10=20;20,21=21"
"C9=CC=CC=C9[S:10][H].[H][O+:21]=[C:20]([O]C)[S]C.[Cl-]>>[Cl-].C9=CC=CC=C9[S+:10]([H])[C:20]([O:21][H])([O]C)[S]C 10=20;20,21=21"
"[OH:10]C([H])C(O)C([C:20]([H])=[OH+:21])C>>[OH:21][C:20]1([H])[OH+:10]C([H])C(O)C1C 10=20;20,21=21"
"CCCCCCC1C(C(O[C:20](=[O:10])N1C)[H])CCCCCC.[O-:21]CC>>CCCCCCC1C(C(O[C:20](N1C)([O-:10])[O:21]CC)[H])CCCCCC 21=20;20,10=10"
"CC[NH+:10]([H])[C:20]([NH:21][H])([NH]C8=CC=CC=C8)[O]C7=CC=CC=C7.[Cl-]>>[Cl-].CC[NH:10][H].[H][NH+:21]=[C:20]([NH]C8=CC=CC=C8)[O]C7=CC=CC=C7 21=20;20,10=10"
"[O-:21][C:20]1(OC)C([H])C([H])C(O)C([H])[NH+:10]1(C)>>[NH:10](C)C([H])C(O)C([H])C([H])[C:20](OC)=[O:21] 21=20;20,10=10"
"[H][NH:10]C(C)C(C8=CC=CC=C8)[O][C:20]([NH]C)=[NH+:21]C6=CC=CC=C6.[Cl-]>>[Cl-].[H][NH+:10](C(C)C(C8=CC=CC=C8)[O]1)[C:20]1([NH:21]C6=CC=CC=C6)[NH]C 10=20;20,21=21"
"[H]N([C:20]1(OC(C(C([O:21]1)C)C)C1=CC=CC=C1)[O-:10])C>>[H]N([C:20](=[O:10])OC(C(C([O-:21])C)C)C1=CC=CC=C1)C 10=20;20,21=21"
"C[O+:10]([H])[C:20]1([NH:21][H])[NH][CH]([H])C([H])[CH]([H])[O]1.[Cl-]>>[Cl-].[H][NH+:21]=[C:20]2[NH][CH]([H])[CH]([H])C([H])[O]2.C[O:10][H] 21=20;20,10=10"
"[H][O+:10](C(CC)C([H])C(CC)[S]1)[C:20]1([O:21][H])[O]CC.[Cl-]>>[Cl-].[H][O:10]C(CC)C([H])C(CC)[S][C:20]([O]CC)=[O+:21][H] 21=20;20,10=10"
"[H][O+:10](C(C9=CC=CC=C9)C([H])C(C)[S]1)[C:20]1([O:21][H])[O]C7=CC=CC=C7.[Cl-]>>[Cl-].[H][O:10]C(C9=CC=CC=C9)C([H])C(C)[S][C:20]([O]C7=CC=CC=C7)=[O+:21][H] 21=20;20,10=10"
"[Si](C)(C)(C)[O+:21]=[C:20]2[O]C([H])C(C8=CC=CC=C8)[O]2.[H][O:10][H].[Cl-]>>[Cl-].[H][O+:10]([H])[C:20]1([O:21][Si](C)(C)(C))[O]C([H])C(C8=CC=CC=C8)[O]1 10=20;20,21=21"
"C9=CC=CC=C9[O:10][H].C6=CC=CC=C6[NH+:21]=[C:20]([O]C8=CC=CC=C8)[NH]CC.[Cl-]>>[Cl-].C9=CC=CC=C9[O+:10]([H])[C:20]([NH:21]C6=CC=CC=C6)([O]C8=CC=CC=C8)[NH]CC 10=20;20,21=21"
"[O:20]=[C:21](OCCCCCC)OC1=CC=CC=C1.CC[O:10][K]>>CC[O+:10]([K])[C:21]([O-:20])(OCCCCCC)OC1=CC=CC=C1 10=21;21,20=20"
"[H][O+:10](C(CC)C(CC)[NH]1)[C:20]1([NH:21]CC)[NH]C7=CC=CC=C7.[Cl-]>>[Cl-].[H][O:10]C(CC)C(CC)[NH][C:20]([NH]C7=CC=CC=C7)=[NH+:21]CC 21=20;20,10=10"
"[H][NH+:10]([H])[C:20]1([NH:21]C)[O]C(C)C(C8=CC=CC=C8)[O]1.[Cl-]>>[Cl-].C[NH+:21]=[C:20]2[O]C(C)C(C8=CC=CC=C8)[O]2.[H][NH:10][H] 21=20;20,10=10"
"[H][O+:10](C(C9=CC=CC=C9)C(C)[O]1)[C:20]1([NH:21]C)[O][H].[Cl-]>>[Cl-].[H][O:10]C(C9=CC=CC=C9)C(C)[O][C:20]([O][H])=[NH+:21]C 21=20;20,10=10"
"C9=CC=CC=C9[NH+:10]([H])[C:20]([NH:21][H])([O]C)[O]C7=CC=CC=C7.[Cl-]>>[Cl-].C9=CC=CC=C9[NH:10][H].[H][NH+:21]=[C:20]([O]C)[O]C7=CC=CC=C7 21=20;20,10=10"
"CC1C(C(O[C:20](N1[H])([O-:10])[O:21]CC)C)C>>CC1C(C(O[C:20](=[O:10])N1[H])C)C.[O-:21]CC 10=20;20,21=21"
"[H][NH+:10](C(CC)C([H])C(C)[O]1)[C:20]1([NH:21]C)[O]C7=CC=CC=C7.[Cl-]>>[Cl-].[H][NH:10]C(CC)C([H])C(C)[O][C:20]([O]C7=CC=CC=C7)=[NH+:21]C 21=20;20,10=10"
"[OH:21][CH:20]2(C)C3=C(C(C([OH+:10]2)[H])[H])C=CC=C3>>[OH:10]C(C(C1=C(C=CC=C1)[CH:20](C)=[OH+:21])[H])[H] 21=20;20,10=10"
"CCC1C(C(O[C:20](=[O:10])N1C)CCCCCC)CCCCCC.[O-:21]C1=CC=CC=C1>>CCC1C(C(O[C:20](N1C)([O-:10])[O:21]C1=CC=CC=C1)CCCCCC)CCCCCC 21=20;20,10=10"
"CC[O+:10]([K])[C:21]([O-:20])(OCCCCCC)OC>>[O:20]=[C:21](OCCCCCC)OC.CC[O:10][K] 20=21;21,10=10"
"[H][NH+:10](C([H])C([H])[O]1)[C:20]1([NH:21]CC)[O]C7=CC=CC=C7.[Cl-]>>[Cl-].[H][NH:10]C([H])C([H])[O][C:20]([O]C7=CC=CC=C7)=[NH+:21]CC 21=20;20,10=10"
"[H][S:10]C([H])C(C)C(CC)[S][C:20]([S][H])=[O+:21]C.[Cl-]>>[Cl-].[H][S+:10](C([H])C(C)C(CC)[S]1)[C:20]1([O:21]C)[S][H] 10=20;20,21=21"
"CCCCCCC1C(C(O[C:20](N1C1=CC=CC=C1)([O-:10])[O:21]C)C)CCCCCC>>CCCCCCC1C(C(O[C:20](=[O:10])N1C1=CC=CC=C1)C)CCCCCC.[O-:21]C 10=20;20,21=21"
"[H][NH+:10](C(C9=CC=CC=C9)C(C)C(C8=CC=CC=C8)[NH]1)[C:20]1([NH:21][H])[NH]CC.[Cl-]>>[Cl-].[H][NH:10]C(C9=CC=CC=C9)C(C)C(C8=CC=CC=C8)[NH][C:20]([NH]CC)=[NH+:21][H] 21=20;20,10=10"
"CC[NH+:21]=[C:20]2[O][CH]([H])[CH]([H])C(C)[O]2.[H][NH:10][H].[Cl-]>>[Cl-].[H][NH+:10]([H])[C:20]1([NH:21]CC)[O][CH]([H])C([H])[CH](C)[O]1 10=20;20,21=21"
"[O-:21][C:20]1(C)C([H])C([H])C([H])C(CC)[NH+:10]1(C)>>[NH:10](C)C(CC)C([H])C([H])C([H])[C:20](C)=[O:21] 21=20;20,10=10"
"[H][O:10]C(C)C([H])C(C8=CC=CC=C8)[S][C:20]([S]C)=[O+:21]C.[Cl-]>>[Cl-].[H][O+:10](C(C)C([H])C(C8=CC=CC=C8)[S]1)[C:20]1([O:21]C)[S]C 10=20;20,21=21"
"C1(C(O[C:20]([O-:10])([O:21]C1C)OCCCCCC)CCCCCC)C1=CC=CC=C1>>C(C([O-:21])C)(C(O[C:20](=[O:10])OCCCCCC)CCCCCC)C1=CC=CC=C1 10=20;20,21=21"
"[H][O+:10]([Na])[C:21]([O-:20])(OC)OC1=CC=CC=C1>>[O:20]=[C:21](OC)OC1=CC=CC=C1.[H][O:10][Na] 20=21;21,10=10"
"C[NH+:10]([H])[C:20]1([NH:21]C6=CC=CC=C6)[O][CH](C7=CC=CC=C7)C(C)[CH](CC)[O]1.[Cl-]>>[Cl-].C6=CC=CC=C6[NH+:21]=[C:20]2[O][CH](C7=CC=CC=C7)[CH](C)C(CC)[O]2.C[NH:10][H] 21=20;20,10=10"
